* Extracted by KLayout with SG13G2 LVS runset on : 19/03/2026 00:52

.SUBCKT neuron_noahp GND|VSS in|out REQ|out V_mem|v_mem Vfb|in|out V_lk v_ref
+ VDD Vrefcap I_in ACK
M$1 GND|VSS GND|VSS GND|VSS GND|VSS sg13_hv_nmos L=3u W=20u AS=5.3p AD=5.3p
+ PS=38.48u PD=38.48u
M$2 GND|VSS GND|VSS GND|VSS GND|VSS sg13_hv_nmos L=4u W=8u AS=1.52p AD=1.52p
+ PS=14.08u PD=14.08u
M$14 GND|VSS V_lk V_mem|v_mem GND|VSS sg13_hv_nmos L=4u W=16u AS=3.04p AD=3.04p
+ PS=19.04u PD=19.04u
M$19 GND|VSS GND|VSS GND|VSS GND|VSS sg13_hv_nmos L=2u W=14u AS=3.26p AD=2.96p
+ PS=24.52u PD=21.92u
M$25 GND|VSS Vfb|in|out in|out GND|VSS sg13_hv_nmos L=0.5u W=4u AS=1.36p
+ AD=1.36p PS=8.68u PD=8.68u
M$26 GND|VSS in|out REQ|out GND|VSS sg13_hv_nmos L=0.5u W=4u AS=1.36p AD=1.36p
+ PS=8.68u PD=8.68u
M$28 GND|VSS v_ref \$21 GND|VSS sg13_hv_nmos L=4u W=16u AS=3.04p AD=3.04p
+ PS=19.04u PD=19.04u
M$40 GND|VSS V_mem|v_mem \$17 GND|VSS sg13_hv_nmos L=2u W=2u AS=0.38p AD=0.38p
+ PS=2.76u PD=2.76u
M$41 \$17 V_mem|v_mem \$18 GND|VSS sg13_hv_nmos L=2u W=2u AS=0.38p AD=0.38p
+ PS=2.76u PD=2.76u
M$42 \$18 V_mem|v_mem \$19 GND|VSS sg13_hv_nmos L=2u W=2u AS=0.38p AD=0.38p
+ PS=2.76u PD=2.76u
M$43 \$19 V_mem|v_mem Vfb|in|out GND|VSS sg13_hv_nmos L=2u W=2u AS=0.38p
+ AD=0.38p PS=2.76u PD=2.76u
M$44 Vfb|in|out GND|VSS GND|VSS GND|VSS sg13_hv_nmos L=2u W=2u AS=0.38p
+ AD=0.68p PS=2.76u PD=5.36u
M$75 GND|VSS Vrefcap V_mem|v_mem GND|VSS sg13_hv_nmos L=0.5u W=1u AS=0.34p
+ AD=0.34p PS=2.68u PD=2.68u
M$76 \$21 REQ|out Vrefcap GND|VSS sg13_hv_nmos L=0.5u W=1u AS=0.34p AD=0.34p
+ PS=2.68u PD=2.68u
M$77 VDD VDD VDD \$64 sg13_hv_pmos L=2u W=25u AS=5.35p AD=5.5p PS=43.8u PD=45.1u
M$87 VDD VDD I_in \$64 sg13_hv_pmos L=2u W=8u AS=2.12p AD=2.12p PS=16.24u
+ PD=16.24u
M$88 I_in V_lk GND|VSS \$64 sg13_hv_pmos L=2u W=16u AS=3.04p AD=3.04p PS=22.08u
+ PD=22.08u
M$90 I_in V_mem|v_mem V_mem|v_mem \$64 sg13_hv_pmos L=2u W=16u AS=3.04p
+ AD=3.04p PS=22.08u PD=22.08u
M$113 VDD VDD Vfb|in|out \$64 sg13_hv_pmos L=2u W=2u AS=0.53p AD=0.53p PS=4.06u
+ PD=4.06u
M$114 Vfb|in|out V_mem|v_mem \$81 \$64 sg13_hv_pmos L=2u W=4u AS=0.76p AD=0.76p
+ PS=5.52u PD=5.52u
M$130 VDD \$81 \$81 \$64 sg13_hv_pmos L=2u W=4u AS=0.76p AD=0.76p PS=5.52u
+ PD=5.52u
M$135 VDD Vfb|in|out in|out \$64 sg13_hv_pmos L=0.5u W=4u AS=1.36p AD=1.36p
+ PS=8.68u PD=8.68u
M$136 VDD in|out REQ|out \$64 sg13_hv_pmos L=0.5u W=4u AS=1.36p AD=1.36p
+ PS=8.68u PD=8.68u
M$153 VDD VDD V_mem|v_mem \$64 sg13_hv_pmos L=2u W=1u AS=0.34p AD=0.19p
+ PS=2.68u PD=1.38u
M$154 V_mem|v_mem \$81 \$102 \$64 sg13_hv_pmos L=2u W=1u AS=0.19p AD=0.19p
+ PS=1.38u PD=1.38u
M$155 \$102 \$81 \$103 \$64 sg13_hv_pmos L=2u W=1u AS=0.19p AD=0.19p PS=1.38u
+ PD=1.38u
M$156 \$103 \$81 \$104 \$64 sg13_hv_pmos L=2u W=1u AS=0.19p AD=0.19p PS=1.38u
+ PD=1.38u
M$157 \$104 \$81 VDD \$64 sg13_hv_pmos L=2u W=1u AS=0.19p AD=0.19p PS=1.38u
+ PD=1.38u
M$159 Vrefcap REQ|out \$95 \$64 sg13_hv_pmos L=0.5u W=1u AS=0.34p AD=0.19p
+ PS=2.68u PD=1.38u
M$160 \$95 ACK VDD \$64 sg13_hv_pmos L=0.5u W=1u AS=0.19p AD=0.34p PS=1.38u
+ PD=2.68u
C$171 GND|VSS V_mem|v_mem cap_cmim w=44.4u l=15u A=666p P=118.8u m=1
C$172 GND|VSS Vrefcap cap_cmim w=22.1u l=15u A=331.5p P=74.2u m=1
R$173 \$64 VDD ntap1 A=52.24p P=326.4u
.ENDS neuron_noahp
